US05225559
In 6 ml of acetone were dissolved 0.80 g (2.64 mmol) of 4-[(4-chlorophenyl)-2-pyridylmethoxy]piperidine and 0.95 g (3.01 mmol) of 4-(3-bromopropoxy)-2-hydroxy-3-n-propylacetophenone. To the mixed solution was added 0.44 g (3.18 mmol) of potassium carbonate, and the mixture was heated and stirred at an oil bath temperature of at around 60° C. for 6.5 hours. After completion of the reaction, insolubles were removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was applied to silica gel column chromatography using a solvent mixture of chloroform and methanol in a volume ratio of 20:1 as an eluent to obtain 1.24 g (yield: 87%) of 1-[(4-acetyl-3-hydroxy-2-n-propylphenoxy)propyl]-4-[(4-chlorophenyl)-2-pyridylmethoxy]piperidine as a slightly brown oily product.

reactant | 4-[(4-chlorophenyl)-2-pyridylmethoxy]piperidine | 2.64 mmol, 0.80 g | ClC1=CC=C(C=C1)C(OC1CCNCC1)C1=NC=CC=C1 | C17H19ClN2O
reactant | potassium carbonate | 3.18 mmol, 0.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 6 ml | CC(=O)C | C3H6O
product | 1-[(4-acetyl-3-hydroxy-2-n-propylphenoxy)propyl]-4-[(4-chlorophenyl)-2-pyridylmethoxy]piperidine | 1.24 g, yield: 87% | C(C)(=O)C1=C(C(=C(OCCCN2CCC(CC2)OC(C2=NC=CC=C2)C2=CC=C(C=C2)Cl)C=C1)CCC)O | C31H37ClN2O4
